US07981918B2
Trifluoro-methanesulfonic acid 3-(3,5-Dichloro-4′-carboxymethyl-biphenyl-4-ylmethyl)-1-(4,5,6,7-tetrahydro-2H-indazol-5-yl)-pyrrolidin-2-one
Combine Trifluoro-methanesulfonic acid 3,5-dichloro-4-[2-oxo-1-(2-trifluoromethanesulfonyl-4,5,6,7-tetrahydro-2H-indazol-5-yl)-pyrrolidin-3-ylmethyl]-phenyl ester (1.0 g, 1.55 mmol), 4-Carboxymethylphenyl boronic acid (0.416 g, 2.3 mmol), sodium carbonate (2.3 ml of 2.0 M, 5.4 mmol) in DME (12 mL) and degas with a stream of nitrogen. Add (Ph3P)4Pd (0.078 g, 0.15 mmol), and stir at 80° C. for 17 hour under nitrogen atmosphere. Cool to ambient temperature and add ethyl acetate (20 mL) and water (10 mL). Extract the aqueous phase with ethyl acetate (2×20 mL), dry (sodium sulfate) and condense under reduced pressure. Chromatography (silica, 95:5 CH2Cl2/Methanol) yields 0.750 g as a white solid MS (m/z): 632 (M+2).

reactant | Trifluoro-methanesulfonic acid 3,5-dichloro-4-[2-oxo-1-(2-trifluoromethanesulfonyl-4,5,6,7-tetrahydro-2H-indazol-5-yl)-pyrrolidin-3-ylmethyl]-phenyl ester | 1.55 mmol, 1.0 g | ClC=1C=C(C=C(C1CC1C(N(CC1)C1CC2=CN(N=C2CC1)S(=O)(=O)C(F)(F)F)=O)Cl)OS(=O)(=O)C(F)(F)F | C20H17Cl2F6N3O6S2
reactant | 4-Carboxymethylphenyl boronic acid | 2.3 mmol, 0.416 g | C(=O)(O)CC1=CC=C(C=C1)B(O)O | C8H9BO4
reactant | sodium carbonate | 5.4 mmol, 2.0 M, 2.3 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | DME | 12 mL | COCCOC | C4H10O2
catalyst | (Ph3P)4Pd | 0.15 mmol, 0.078 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | CH2Cl2 Methanol | C(Cl)Cl.CO
solvent | water | 10 mL | O | H2O
product | Trifluoro-methanesulfonic acid 3-(3,5-Dichloro-4′-carboxymethyl-biphenyl-4-ylmethyl)-1-(4,5,6,7-tetrahydro-2H-indazol-5-yl)-pyrrolidin-2-one | ClC=1C=C(C=C(C1CC1C(N(CC1)C1CC2=CNN=C2CC1)=O)Cl)C1=CC=C(C=C1)CC(=O)O.FC(S(=O)(=O)O)(F)F | InChI=1S/C26H25Cl2N3O3.CHF3O3S/c27-22-12-18(16-3-1-15(2-4-16)9-25(32)33)13-23(28)21(22)11-17-7-8-31(26(17)34)20-5-6-24-19(10-20)14-29-30-24;2-1(3,4)8(5,6)7/h1-4,12-14,17,20H,5-11H2,(H,29,30)(H,32,33);(H,5,6,7)
